US09062070B2
6-methoxy-2-methyl-3-[(3S,9aR)-octahydropyrazino[2,1-c][1,4]oxazin-3-yl]benzonitrile
A microwave vial was charged with 6-fluoro-2-methyl-3-[(3S,9aR)-octahydropyrazino[2,1-c][1,4]oxazin-3-yl]benzonitrile trifluoroacetate (110 mg, 0.290 mmol), sodium carbonate (30 mg, 0.290 mmol), and methanol (2 mL). The mixture was heated to 150° C. in a microwave apparatus for 2 h, then cooled to ambient temperature, filtered and concentrated to provide the title compound which was used without further purification. LC-MS (IE, m/z): 288 [M+1]+.

reactant | 6-fluoro-2-methyl-3-[(3S,9aR)-octahydropyrazino[2,1-c][1,4]oxazin-3-yl]benzonitrile trifluoroacetate | 0.290 mmol, 110 mg | FC(C(=O)O)(F)F.FC1=CC=C(C(=C1C#N)C)[C@H]1CN2[C@@H](CO1)CNCC2
reactant | sodium carbonate | 0.290 mmol, 30 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | 2 mL | CO | CH4O
product | 6-methoxy-2-methyl-3-[(3S,9aR)-octahydropyrazino[2,1-c][1,4]oxazin-3-yl]benzonitrile | COC1=CC=C(C(=C1C#N)C)[C@H]1CN2[C@@H](CO1)CNCC2 | C16H21N3O2
